USRE037094E1
B′) Benzyl (1-methoxycarbonylmethyl)indole-2-carboxylate
5 g of benzyl indole-2-carboxlate in solution in 20 ml of dimethylformamide are introduced slowly into 30 ml of a suspension of 1 g of NaOH NaH in 30 ml of dimethylformamide and 3.1 g of methyl bromoacetate are then introduced. After 12 hours at ambient temperature, with stirring, the mixture is poured into a volume of ice-water and then extracted with ethyl acetate. The dried organic phase is concentrated and the residue is recrystallised from aqueous ethanol (95%, V/V). m.p.=94° C.; yield 87%.

reactant | benzyl indole-2-carboxlate | 5 g | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | NaOH NaH | 1 g | [OH-].[Na+].[H-].[Na+]
reactant | methyl bromoacetate | 3.1 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Benzyl (1-methoxycarbonylmethyl)indole-2-carboxylate | COC(=O)CC1=C(NC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C19H17NO4
